US06506762B1
I. (2-Chloroethyl)[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-amine
Treat a solution of N-[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide (0.04 g, 0.10 mmol) in THF (5 mL) with borane-methyl sulfide complex (0.03 mL, 0.30 mmol). Heat the mixture to reflux for 8 h and quench at ambient temperature with a large excess of MeOH), followed by 6N HCl (2 mL). Re-heat the mixture to reflux for 1 h, then concentrate under reduced pressure to obtain the title compound as a yellow solid.

reactant | N-[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide | 0.10 mmol, 0.04 g | CC1=CC(=C2C(=N1)N(C=N2)C2=C(C=C(C=C2C)C)C)NC(CCl)=O | C18H19ClN4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-Chloroethyl)[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-amine | ClCCNC1=C2C(=NC(=C1)C)N(C=N2)C2=C(C=C(C=C2C)C)C | C18H21ClN4
